* AD103 Lab 01 - the same circuit with the gate wire one grid step short
*
* This is spice/nmos_op.spice with the gate on a net called net1 instead of g,
* which is exactly what XSchem writes when a wire ends near a pin instead of
* on it. Nothing else differs.
*
* Vgs is still there, still set to 1.8 V, still driving a net called g. That
* net simply no longer reaches the transistor.
*
*   make unconnected
*
* ngspice does not stop. Read what it prints instead.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XM1 d net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1

Vgs g 0 1.8
Vds d 0 1.8

.control
op
print i(Vds)
print v(net1)
.endc
.end
